US07485634B2
A mixture of 3-indolylacetonitrile (5 g, 32 mmol), triton B (40% in MeOH, 0.5 g), benzyl bromide (7.8 mL, 2 eq.) and aqueous NaOH (50%, 12.6 mL) was stirred for 2 hours at 20° C. Water was added. Solid was collected by filtration and washed with water and hexane and dried under high vacuum to give [1-benzyl-1H-indol-3-yl]acetonitrile (6.97 g). MS (ES): 247 (MH+).

reactant | 3-indolylacetonitrile | 32 mmol, 5 g | N1C=C(C2=CC=CC=C12)CC#N | C10H8N2
reactant | benzyl bromide | 7.8 mL, 2 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaOH | 12.6 mL | [OH-].[Na+]
reactant | Water | O | H2O
solvent | MeOH | CO | CH4O
product | [1-benzyl-1H-indol-3-yl]acetonitrile | 6.97 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)CC#N | C17H14N2
